US04096100
Preparation of 1,5-bis(methanesulfonyl) carbohydrazide
A mixture of 45 g (0.5 mole) carbohydrazide, 84 g NaHCO3 (1.0 mole) and 50 ml methanol was stirred as 114.5 g (1.0 mole) methane sulfonyl chloride was added over 30 minutes. The temperature rose from 25° to 40° C. The stirring was continued for 15 minutes (temp. 44° C). The mixture was then heated to 65° C for two hours, and was then cooled to 25° C and the solid product (including sodium chloride was filtered and washed with methanol and dried. Yield: 146 g. The material was first suspended in water to remove sodium chloride and then filtered, washed with water and dried. Yield: 81 g, m.p. = 207° C dec.

reactant | carbohydrazide | 0.5 mole, 45 g | NNC(=O)NN | CH6N4O
reactant | NaHCO3 | 1.0 mole, 84 g | C(=O)(O)[O-].[Na+]
reactant | methane sulfonyl chloride | 1.0 mole, 114.5 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium chloride | [Cl-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | 1,5-bis(methanesulfonyl) carbohydrazide | CS(=O)(=O)NNC(=O)NNS(=O)(=O)C | C3H10N4O5S2
